US04767755
3-{[Methyl-(3-methylbutanoyl)amino]methyl}-2-(4-methylphenyl)imidazo[1,2 -a]pyridine-6-carbonitrile
3.7 g (0.041 mole) of cuprous cyanide and 19 g (0.041 mole) of N-{[6-iodo-2-(4-methylphenyl)imidazo[1,2-a]pyrid-3-yl]methyl}-N,3-dimethylbutanamide, prepared according to the process described in European Patent Application No. 0,172,096, are introduced into 100 ml of dimethylformamide. The mixture is heated under reflux for 4 hours and the solvent then evaporated off under reduced pressure. The residue is taken up with water and dichloromethane and the mixture treated with ammonia solution. The organic phase is washed with water and dried, and the solvent evaporated off. The residue is purified by column chromatography and taken up with pentane. 14.4 g (96%) of white solid are obtained. M.p. 151°-153° C.

reactant | N-{[6-iodo-2-(4-methylphenyl)imidazo[1,2-a]pyrid-3-yl]methyl}-N,3-dimethylbutanamide | 0.041 mole, 19 g | IC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CN(C(CC(C)C)=O)C | C21H24IN3O
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-{[Methyl-(3-methylbutanoyl)amino]methyl}-2-(4-methylphenyl)imidazo[1,2 -a]pyridine-6-carbonitrile | 14.4 g, 96% | CN(C(CC(C)C)=O)CC1=C(N=C2N1C=C(C=C2)C#N)C2=CC=C(C=C2)C | C22H24N4O
